US07855297B2
By the reaction and treatment in the same manner as in Example 1 using 1,1-dioxothiochroman-4-carboxylic acid (0.26 g) and [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine (0.31 g) as starting materials, N-[(4-dimethylaminophenyl) methyl]-N-(4-isopropylphenyl)-1,1-dioxothiochroman-4-carboxamide (0.07 g) was obtained. melting point: 185-187° C.

reactant | 1,1-dioxothiochroman-4-carboxylic acid | 0.26 g | O=S1(CCC(C2=CC=CC=C12)C(=O)O)=O | C10H10O4S
reactant | [(4-dimethylaminophenyl)methyl](4-isopropylphenyl)amine | 0.31 g | CN(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C(C)C)C | C18H24N2
product | N-[(4-dimethylaminophenyl) methyl]-N-(4-isopropylphenyl)-1,1-dioxothiochroman-4-carboxamide | 0.07 g | CN(C1=CC=C(C=C1)CN(C(=O)C1CCS(C2=CC=CC=C12)(=O)=O)C1=CC=C(C=C1)C(C)C)C | C28H32N2O3S
